US05585378
1H-Indole-2,3-dione (2.4 g) in dry DMF (8 ml) at 0° C. was treated with sodium hydride (80% dispersion in mineral oil, 500 mg). The mixture was allowed to warm to room temperature and after 30 minutes 1-(2-chloroethyl)-4-(cyclohexylmethyl)piperazine (4 g) in dry DMF (8 ml) was added. The mixture was heated at 80° C. for 1.5 hours and then evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel and then treated with ethanolic HCl to give 1-[2-[4-(cyclohexylmethyl)-1-piperazinyl]ethyl]-1H-indole-2,3-dione dihydrochloride, m.p. 256°-258° C.

reactant | 1H-Indole-2,3-dione | 2.4 g | N1C(C(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | sodium hydride | 500 mg | [H-].[Na+]
reactant | 1-(2-chloroethyl)-4-(cyclohexylmethyl)piperazine | 4 g | ClCCN1CCN(CC1)CC1CCCCC1 | C13H25ClN2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 1-[2-[4-(cyclohexylmethyl)-1-piperazinyl]ethyl]-1H-indole-2,3-dione dihydrochloride | Cl.Cl.C1(CCCCC1)CN1CCN(CC1)CCN1C(C(C2=CC=CC=C12)=O)=O | InChI=1S/C21H29N3O2.2ClH/c25-20-18-8-4-5-9-19(18)24(21(20)26)15-14-22-10-12-23(13-11-22)16-17-6-2-1-3-7-17;;/h4-5,8-9,17H,1-3,6-7,10-16H2;2*1H
